US07842696B2
DIPEA (418 mg, 0.56 mL, 3.2 mmol) was added to a stirred solution of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (303.4 mg, 0.86 mmol) in DMF (4 mL). HOBT (106 mg, 0.79 mmol) and EDCI (344 mg, 1.7 mmol) were then added at room temperature. After 2 minutes, 6-hydroxy nicotinic acid (100 mg, 0.71 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by preparative HPLC to afford 77 mg (24.6% yield) of 6-hydroxy-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-nicotinamide. LCMS Purity: 95.26%. 1H NMR (DMSO-d6): δ 12 (s, 1H), 8.4 (s, 1H), 7.9-7.74 (m, 3H), 7.72-7.62 (m, 1H), 7.6-7.5 (m, 1H), 4.2-4.0 (d, 2H), 3.9-3.52 (m, 5H), 3.24-3.0 (m, 3H).

reactant | DIPEA | 3.2 mmol, 0.56 mL, 418 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.86 mmol, 303.4 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | HOBT | 0.79 mmol, 106 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.7 mmol, 344 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 6-hydroxy nicotinic acid | 0.71 mmol, 100 mg | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-hydroxy-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-nicotinamide | 77 mg, 24.6% yield | OC1=NC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C20H19F3N4O4
